US04228179
13.7 g. 1,1-cycloheptane-diacetic anhydride are mixed with 2.36 g. anhydrous methanol in 10 ml. benzene and boiled under reflux for 2 hours. After evaporation in a vacuum, there are obtained 15.9 g. 1,1-cycloheptanediacetic acid monomethyl ester which is dissolved in 100 ml. anhydrous acetone and then, according to the description given in German Pat. No. 2,460,891, first mixed with 8.1 g. triethylamine in 30 ml. acetone, thereafter with 9.8 g. ethyl chloroformate in 30 ml. anhydrous acetone and finally with 6.5 g. sodium azide in 20 ml. water. After the reaction has taken place, the reaction mixture is extracted and the solution obtained of 1,1-cycloheptane-diacetic acid monomethyl ester azide in toluene is rearranged to give the isocyanate. The methyl 1-isocyanatomethyl-1-cycloheptane-acetate obtained is boiled under reflux for 3 hours in 20% hydrochloric acid. Upon concentration of the reaction mixture in a vacuum, 1-aminomethyl-1-cycloheptane-acetic acid separates out in the form of its hydrochloride. 32 g. 1-aminomethyl-1-cycloheptane-acetic acid hydrochloride, obtained from several reaction batches, and 45 g. anhydrous sodium acetate are heated under reflux for 5 hours in 300 ml. acetic anhydride. After cooling, inorganic salts are filtered off and the solvent is stripped off in a vacuum. Distillation of the residue gives N-acetyl-3-oxo-2-azaspiro[4,6]undecane in the form of a colourless oil; b.p. 125°-130° C./10-3 mm.Hg.

reactant | 1-aminomethyl-1-cycloheptane-acetic acid | NCC1(CCCCCC1)CC(=O)O | C10H19NO2
reactant | hydrochloric acid | Cl | ClH
product | 1-aminomethyl-1-cycloheptane-acetic acid hydrochloride | Cl.NCC1(CCCCCC1)CC(=O)O | InChI=1S/C10H19NO2.ClH/c11-8-10(7-9(12)13)5-3-1-2-4-6-10;/h1-8,11H2,(H,12,13);1H
